### PR TITLE
Erdős Problem 125

### LINKED ISSUE #366: Erdős Problem 125
### What is the conjecture
    
https://www.erdosproblems.com/125

  Let $A = \\{ \sum\epsilon_k3^k : \epsilon_k\in \\{0,1\\}\\}$ be the set of integers which have only the digits $0,1$ when written base $3$, and $B=\\{ \sum\epsilon_k4^k : \epsilon_k\in \\{0,1\\}\\}$ be the set of integers which have only the digits $0,1$ when written base $4$. Does $A+B$ have positive density?

Status: open

### Prerequisites needed
Should all be there: "positive density" can be found in `FormalConjectures/ForMathlib/Data/Set/Density.lean`

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by DomonkosV**
fix #366

### CODE REVIEW

File: FormalConjectures/ErdosProblems/125.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
...
+have only the digits $0, 1$ when written base 3, and $B = {∑ ε_{k} 4^{k} : ε_{k} ∈ {0,1}}$
+be the set of integers which have only the digits $0, 1$ when written base 4.
+Does $A + B$ have positive density?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_125 :
+    ({ x : ℕ | (digits 3 x) ⊆ {0, 1} } + { x : ℕ | (digits 4 x) ⊆ {0, 1} }).HasPosDensity ↔
+    answer(sorry) := by
+    sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/125.lean]:
```suggestion
  sorry
```
The proof is usually indented only one step.

File: FormalConjectures/ErdosProblems/125.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+/-
+Let $A = {∑ ε_{k} 3^{k} : ε_{k} ∈ {0,1}}$ be the set of integers which
+have only the digits $0, 1$ when written base 3, and $B = {∑ ε_{k} 4^{k} : ε_{k} ∈ {0,1}}$
+be the set of integers which have only the digits $0, 1$ when written base 4.
+Does $A + B$ have positive density?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_125 :
+    ({ x : ℕ | (digits 3 x) ⊆ {0, 1} } + { x : ℕ | (digits 4 x) ⊆ {0, 1} }).HasPosDensity ↔
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/125.lean]:
```suggestion
    { x : ℕ | (digits 3 x).toFinset ⊆ {0, 1} } + { x : ℕ | (digits 4 x).toFinset ⊆ {0, 1} }.HasPosDensity ↔
```
Apparently here `{0, 1}` is treated as a list, because `List` has an instance of the `Insert` class, which is used to implement the notation `{ }` for writing e.g. `{a, b}`. So the statement currently says that `x` has first digit `0` and second digit `1` (i.e. `x = 3` or `x = 4`). I've suggested a fix.

Comment (DomonkosV) [reply FormalConjectures/ErdosProblems/125.lean]: The round brackets are mandatory for .HasPosDensity to take the full set.

Comment (callesonne) [reply FormalConjectures/ErdosProblems/125.lean]: Ah right, I forgot you were doing addition inside the brackets, my bad!

File: FormalConjectures/ErdosProblems/125.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+Let $A = {∑ ε_{k} 3^{k} : ε_{k} ∈ {0,1}}$ be the set of integers which
+have only the digits $0, 1$ when written base 3, and $B = {∑ ε_{k} 4^{k} : ε_{k} ∈ {0,1}}$
+be the set of integers which have only the digits $0, 1$ when written base 4.
+Does $A + B$ have positive density?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_125 :
+    ({ x : ℕ | (digits 3 x).toFinset ⊆ {0, 1} } + { x : ℕ | (digits 4 x).toFinset ⊆ {0, 1} }
+      ).HasPosDensity ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/125.lean]:
```suggestion
theorem erdos_125 :
    ({ x : ℕ | (digits 3 x).toFinset ⊆ {0, 1} } +
      { x : ℕ | (digits 4 x).toFinset ⊆ {0, 1} }).HasPosDensity ↔ answer(sorry) := by
```
Final formatting suggestion :)

Comment (DomonkosV) [reply FormalConjectures/ErdosProblems/125.lean]: I finished the final formatting. Thank you for the suggestions!

**Review by YaelDillies — APPROVED** [review]
Looks good, thanks!
